US07576094B2
Step 2: 2-Methoxy-1,3-dimethyl-5-nitrobenzene
2,6-Dimethyl-4-nitroaniline (15 g) Me2SO4 (22 g) and K2CO3 (23 g) were dissolved in 150 mL acetone and refluxed for 3 hours. The reaction mixture was filtered and concentrated. The organic residue was dissolved in warm hexane and let to crystallize out in the fridge. After filtration, 2-methoxy-1,3-dimethyl-5-nitrobenzene was collected as white solid (12 g). 1H-NMR (300 MHz, CDCl3): δ=7.95 (s, 2H), 3.80 (s, 3H), 2.38 (s, 6H) ppm. MS: m/z 182 (100, M+H)+

reactant | 2,6-Dimethyl-4-nitroaniline | 15 g | CC1=C(N)C(=CC(=C1)[N+](=O)[O-])C | C8H10N2O2
reactant | K2CO3 | 23 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 2-Methoxy-1,3-dimethyl-5-nitrobenzene | COC1=C(C=C(C=C1C)[N+](=O)[O-])C | C9H11NO3
